US06627651B1
Into a solution of 4-bromomethyl-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine (329 mg) in toluene (10 ml) was added triphenylphosphine (393 mg), and the resulting mixture was refluxed for 2 hours. After gradual cooling, the precipitate was collected by filtration and was washed with toluene. The precipitate was dried under reduced pressure to obtain [7-(4-methylphenyl)-2,3-dihydro-1-benzooxepin-4-yl]methyltriphenylphosphonium bromide (549 mg) as a white powder.

reactant | 4-bromomethyl-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine | 329 mg | BrCC=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C18H17BrO
reactant | triphenylphosphine | 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | [7-(4-methylphenyl)-2,3-dihydro-1-benzooxepin-4-yl]methyltriphenylphosphonium bromide | 549 mg | [Br-].CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1 | InChI=1S/C36H32OP.BrH/c1-28-17-19-30(20-18-28)31-21-22-36-32(26-31)25-29(23-24-37-36)27-38(33-11-5-2-6-12-33,34-13-7-3-8-14-34)35-15-9-4-10-16-35;/h2-22,25-26H,23-24,27H2,1H3;1H/q+1;/p-1
